2173-02-14 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2173-2-13**] 11:26 AM
 NON-INVASIVE VENTILATION - STOP [**2173-2-13**] 11:33 AM
 NON-INVASIVE VENTILATION - STOP [**2173-2-13**] 03:45 PM
   [**2173-2-13**]
   - Able to wean off BiPap yesterday evening.  On NC and mentating well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-13**] 09:00 AM
   Metoprolol - [**2173-2-13**] 12:09 PM
   Furosemide (Lasix) - [**2173-2-13**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-14**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 92 (69 - 108) bpm
   BP: 123/58(78) {119/51(62) - 142/64(84)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,196 mL
                                                                    343 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,076 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  4,350 mL
                                                                  1,255 mL
   Urine:
                                                                  2,895 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
                                                                  1,455 mL
                                                                    380 mL
   Balance:
                                                                 -2,154 mL
                                                                   -912 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 810 (336 - 1,934) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 9 cmH2O
   SpO2: 89%
   ABG: 7.41/49/74/31/4
   Ve: 2.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), limited
   exam due to obesity
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral, Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm, Rash: venous stasis shins
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   364 K/uL
   8.5 g/dL
   108 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.0 mEq/L
   19 mg/dL
   101 mEq/L
   138 mEq/L
   25.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2173-2-12**]  05:27 PM
                             [**2173-2-12**]  09:35 PM
                             [**2173-2-13**]  04:19 AM
                             [**2173-2-13**]  10:22 AM
                             [**2173-2-13**]  02:48 PM
                             [**2173-2-13**]  03:49 PM
                             [**2173-2-13**]  04:00 PM
                             [**2173-2-13**]  06:45 PM
                             [**2173-2-14**]  03:30 AM
                             [**2173-2-14**]  03:50 AM
   WBC
   9.8
   8.5
   Hct
   25.5
   25.6
   Plt
   323
   364
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   29
   35
   30
   31
   32
   Glucose
   181
   139
   150
   [**Telephone/Fax (3) 4954**]
   Other labs: PT / PTT / INR:14.9/80.8/1.3, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   76M h/o Afib, dCHF, COPD, Obesity, DM2, and TBM by report from OSH with
   multifactorial respiratory failure.
   .
   # Respiratory failure:  Likely secondary to COPD,
   obesity-hypoventilation, CHF, and pleural effusion from volume
   overload. Continues to appear volume overloaded. No significant TBM on
   bronch here. Per [**Last Name (LF) **], [**First Name3 (LF) **] require trach for obesity-hypoventilation,
   however not likely. No evidence pulmonary infection contributing.
   Episodes of rapid afib enhancing pulmonary edema. Thoracentesis results
   are c/w transudative effusion. Successfully extubated on [**2173-2-12**].
   - BiPAP at pressures of [**1-11**] as needed throughout the day with NC
   inbetween
   - Lasix IV for goal I/O > -1L per day
   - [**Hospital1 7**] lytes
   - Echo
   - Nebs prn
   - Rate control with metoprolol, increase to 50mg TID
   - Chest tube management per [**Last Name (LF) **], [**First Name3 (LF) **] ask to consider clamping and
   pulling given that it is transudate
   .
   # Afib: Intermittently poorly rate controlled but stable at present.
   - Tele
   - Metoprolol, increase to 50mg TID
   - continue IV heparin gtt
   - Coumadin once chest tube removed
   .
   # DM2: RISS, follow FSBG qid.
   .
   # FEN: NPO until respiratory status stabilized, replete 'lytes prn
   # PPX: heparin IV, PPI, bowel regimen
   # Access: Left PICC
   # Code: DNR/DNI
   # Dispo: may transfer back to [**Hospital3 1959**] at some point
   # Communication: [**Name (NI) 113**] [**Name (NI) 3805**] (wife) [**Telephone/Fax (1) 4940**]
   .
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 ATRIAL FIBRILLATION (AFIB)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-11**] 09:42 PM
   Arterial Line - [**2173-2-12**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2173-02-15 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Continues BiPAP
   -Metoprolol increased to 50 TID
   [**Hospital 4972**] transfer to facility with CM in AM
   -Currently DNR/DNI, IP initially mentioned trach, not sure if this is
   c/w goals and they have not mentioned it further
   -Remained tachycardic and trended up after 6 hours on Metoprolol with
   BP in 150s-changed Metoprolol from 50 TID to 50 QID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Metoprolol - [**2173-2-14**] 10:37 AM
   Furosemide (Lasix) - [**2173-2-14**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 98 (85 - 131) bpm
   BP: 145/68(97) {129/61(87) - 165/78(106)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,419 mL
                                                                    279 mL
   PO:
                                                                    660 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    759 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                  1,085 mL
   Urine:
                                                                  2,740 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
                                                                  1,110 mL
                                                                    300 mL
   Balance:
                                                                 -2,431 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.32/64/74/34/3
   Physical Examination
   Gen: Obese man resting comfortably
   HEENT: Unable to assess JVD
   Cards: S1 & S2 regular without murmur
   Pulm: Decreased breath sounds, L chest tube draining to bag
   Abd: Obese, non tender
   Ext: Edema with poor pulses
   Neuro: Responsive, not oriented
   Labs / Radiology
   482 K/uL
   9.5 g/dL
   130 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.3 mEq/L
   19 mg/dL
   99 mEq/L
   139 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2173-2-13**]  04:19 AM
                             [**2173-2-13**]  10:22 AM
                             [**2173-2-13**]  02:48 PM
                             [**2173-2-13**]  03:49 PM
                             [**2173-2-13**]  04:00 PM
                             [**2173-2-13**]  06:45 PM
                             [**2173-2-14**]  03:30 AM
                             [**2173-2-14**]  03:50 AM
                             [**2173-2-15**]  03:19 AM
                             [**2173-2-15**]  03:56 AM
   WBC
   9.8
   8.5
   10.2
   Hct
   25.5
   25.6
   28.3
   Plt
   [**Telephone/Fax (3) 4973**]
   Cr
   0.9
   0.8
   0.8
   0.9
   TCO2
   35
   30
   31
   32
   34
   Glucose
   139
   150
   239
   158
   108
   130
   Other labs: PT / PTT / INR:15.3/80.6/1.4, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: Poor placement, L lung opacification with pigtail in
   place
   Microbiology: [**2173-2-12**] 1:58 pm PLEURAL FLUID
      GRAM STAIN (Final [**2173-2-12**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
   76M h/o Afib, dCHF, COPD, Obesity, DM2, and TBM by report from OSH with
   multifactorial respiratory failure.  Discussions with patient
s wife
   indicate that he will be comfort care only at this point.
   .
   # Respiratory failure:  Likely secondary to COPD,
   obesity-hypoventilation, CHF, and pleural effusion from volume
   overload.. Thoracentesis results are c/w transudative effusion.
   Successfully extubated on [**2173-2-12**].
   - BiPAP at pressures of [**1-11**] as needed throughout the day with NC
   inbetween
   - Lasix IV for goal I/O > -1L per day
   - Nebs prn
   - Rate control with metoprolol, increase to 50mg TID
   - Pigtail drain per [**Last Name (LF) **], [**First Name3 (LF) **] ask to consider clamping and pulling given
   that it is transudate
   - Morphine prn pain, respiratory compromise.
   .
   # Afib: Intermittently poorly rate controlled but stable at present.
   - Tele
   - Metoprolol, increase to 50mg TID
   - continue IV heparin gtt
   .
   # DM2: RISS, follow FSBG qid.
   .
   # FEN: NPO until respiratory status stabilized, replete 'lytes prn
   # PPX: heparin IV, PPI, bowel regimen
   # Access: Left PICC
   # Code: DNR/DNI, CMO
   # Dispo: CMO
   # Communication: [**Name (NI) 113**] [**Name (NI) 3805**] (wife) [**Telephone/Fax (1) 4940**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-11**] 09:42 PM
   Arterial Line - [**2173-2-12**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2173-02-16 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Made CMO with current regimen continuing
 TRANSTHORACIC ECHO - At [**2173-2-15**] 08:20 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Metoprolol - [**2173-2-16**] 04:00 AM
   Furosemide (Lasix) - [**2173-2-16**] 05:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-16**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 97 (88 - 129) bpm
   BP: 150/78(102) {116/58(77) - 151/78(102)} mmHg
   RR: 23 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,188 mL
                                                                    549 mL
   PO:
                                                                    420 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    768 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  3,615 mL
                                                                    680 mL
   Urine:
                                                                  2,940 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
                                                                    675 mL
                                                                    100 mL
   Balance:
                                                                 -2,427 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 95%
   ABG: 7.35/67/58/34/7
   Physical Examination
   Gen: Obese man resting comfortably, on nasal cannula
   HEENT: Unable to assess JVD
   Cards: S1 & S2 regular without murmur
   Pulm: Decreased breath sounds, L chest tube draining to bag
   Abd: Obese, non tender
   GU: Red flaking skin on scrotum and groin
   Ext: Edema with poor pulses
   Neuro: Responsive, not oriented
   Labs / Radiology
   479 K/uL
   9.3 g/dL
   118 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.9 mEq/L
   22 mg/dL
   98 mEq/L
   140 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2173-2-13**]  04:00 PM
                             [**2173-2-13**]  06:45 PM
                             [**2173-2-14**]  03:30 AM
                             [**2173-2-14**]  03:50 AM
                             [**2173-2-15**]  03:19 AM
                             [**2173-2-15**]  03:56 AM
                             [**2173-2-15**]  09:43 AM
                             [**2173-2-15**]  10:42 AM
                             [**2173-2-16**]  03:30 AM
                             [**2173-2-16**]  03:33 AM
   WBC
   8.5
   10.2
   10.2
   Hct
   25.6
   28.3
   28.3
   Plt
   364
   482
   479
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   32
   34
   37
   36
   39
   Glucose
   [**Telephone/Fax (3) 5009**]30
   118
   Other labs: PT / PTT / INR:15.8/70.8/1.4, Lactic Acid:0.7 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   76M h/o Afib, dCHF, COPD, Obesity, DM2, and TBM by report from OSH with
   multifactorial respiratory failure.  Discussions with patient
s wife
   indicate that he will be comfort care only at this point.
   .
   # Respiratory failure:  Likely secondary to COPD,
   obesity-hypoventilation, CHF, and pleural effusion from volume
   overload.. Thoracentesis results are c/w transudative effusion.
   Successfully extubated on [**2173-2-12**].
   - BiPAP at pressures of [**1-11**] as needed throughout the day with NC in
   between
   - Lasix IV for goal I/O > -2L per day
   - Nebs prn
   - Pigtail drain per [**Last Name (LF) **], [**First Name3 (LF) **] ask to consider clamping and pulling given
   that it is transudate
   - Morphine prn pain, respiratory compromise.
   .
   # Afib: Intermittently poorly rate controlled but stable at present.
   - Tele
   - Metoprolol, increase to 75mg TID
   - continue IV heparin gtt
   .
   # DM2: RISS, follow FSBG qid.
   .
   #Tinea cruris
   -Miconazole
   .
   # FEN: NPO until respiratory status stabilized, replete 'lytes prn
   # PPX: heparin IV, PPI, bowel regimen
   # Access: Left PICC
   # Code: DNR/DNI, Do not escalate care
   # Dispo: ICU
   # Communication: [**Name (NI) 113**] [**Name (NI) 3805**] (wife) [**Telephone/Fax (1) 4940**]
 ALTERATION IN NUTRITION
 .H/O FUNGAL INFECTION, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 ATRIAL FIBRILLATION (AFIB)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-11**] 09:42 PM
   Arterial Line - [**2173-2-12**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2173-02-17 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased PM dose of lasix to 40mg IV as he was only -300cc at 6pm,
   and changed subsequent doses
   - Pt was more tachycardic, changed metoprolol to 75mg QID instead of
   TID
   - Changed trazodone to 50mg QHS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Metoprolol - [**2173-2-16**] 08:10 AM
   Furosemide (Lasix) - [**2173-2-17**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-17**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 87 (77 - 117) bpm
   BP: 112/61(82) {112/61(82) - 157/99(318)} mmHg
   RR: 22 (13 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,490 mL
                                                                    406 mL
   PO:
                                                                    660 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    830 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                  1,615 mL
   Urine:
                                                                  2,465 mL
                                                                  1,115 mL
   NG:
   Stool:
   300 mL
   Drains:
                                                                    425 mL
                                                                    200 mL
   Balance:
                                                                 -1,400 mL
                                                                 -1,209 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   Gen: Obese man resting comfortably, on nasal cannula
   HEENT: Unable to assess JVD
   Cards: S1 & S2 regular without murmur
   Pulm: Decreased breath sounds, L chest tube draining to bag
   Abd: Obese, non tender
   GU: Red flaking skin on scrotum and groin
   Ext: Edema with poor pulses
   Neuro: AAOx3, hard of hearding
   Labs / Radiology
   516 K/uL
   9.4 g/dL
   130 mg/dL
   0.9 mg/dL
   36 mEq/L
   4.1 mEq/L
   23 mg/dL
   97 mEq/L
   142 mEq/L
   28.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2173-2-14**]  03:30 AM
                             [**2173-2-14**]  03:50 AM
                             [**2173-2-15**]  03:19 AM
                             [**2173-2-15**]  03:56 AM
                             [**2173-2-15**]  09:43 AM
                             [**2173-2-15**]  10:42 AM
                             [**2173-2-16**]  03:30 AM
                             [**2173-2-16**]  03:33 AM
                             [**2173-2-16**]  03:04 PM
                             [**2173-2-17**]  04:20 AM
   WBC
   8.5
   10.2
   10.2
   11.3
   Hct
   25.6
   28.3
   28.3
   28.4
   Plt
   364
   482
   479
   516
   Cr
   0.8
   0.9
   0.9
   0.9
   0.9
   TCO2
   32
   34
   37
   36
   39
   Glucose
   108
   130
   118
   209
   130
   Other labs: PT / PTT / INR:17.9/103.4/1.6, Lactic Acid:0.7 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
   76M h/o Afib, dCHF, COPD, Obesity, DM2, and TBM by report from OSH with
   multifactorial respiratory failure.  Discussions with patient
s wife
   indicate that he will be comfort care only at this point.
   # Respiratory failure:  Likely secondary to COPD,
   obesity-hypoventilation, CHF, and pleural effusion from volume
   overload. Thoracentesis results are c/w transudative effusion.
   Successfully extubated on [**2173-2-12**].
   - BiPAP at pressures of [**1-11**] as needed throughout the day with NC in
   between
   - Lasix IV for goal I/O > -2L per day
   - PM electrolyte monitoring
   - Nebs prn
   - Pigtail drain per [**Last Name (LF) **], [**First Name3 (LF) **] D?C when output <100mL/day
   # Afib: Intermittently poorly rate controlled but stable at present.
   - Tele
   - Metoprolol, increase to 100mg QID
   - continue IV heparin gtt bridge
   - Coumadin 5mg PO Qday goal INR [**3-9**] for Atrial Fibrillation
   # DM2: RISS, follow FSBG qid.
   #Tinea cruris
   -Miconazole
   # FEN: NPO until respiratory status stabilized, replete 'lytes prn
   # PPX: heparin IV, PPI, bowel regimen
   # Access: Left PICC
   # Code: DNR/DNI, Do not escalate care
   # Dispo: ICU, pending [**Hospital1 238**]/Rehab placement
   # Communication: [**Name (NI) 113**] [**Name (NI) 3805**] (wife) [**Telephone/Fax (1) 4940**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-11**] 09:42 PM
   Arterial Line - [**2173-2-12**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2173-02-18 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute issues overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-18**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 91 (71 - 108) bpm
   BP: 135/84(102) {98/56(73) - 158/87(110)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    920 mL
                                                                    300 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    680 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  4,095 mL
                                                                    815 mL
   Urine:
                                                                  3,195 mL
                                                                    815 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
                                                                    600 mL
   Balance:
                                                                 -3,175 mL
                                                                   -514 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 92%
   ABG: ///44/
   Physical Examination
   Gen: Obese man resting comfortably, on nasal cannula
   HEENT: Unable to assess JVD
   Cards: S1 & S2 regular without murmur
   Pulm: Decreased breath sounds, L chest tube draining to bag
   Abd: Obese, non tender
   GU: Red flaking skin on scrotum and groin
   Ext: Edema with poor pulses
   Neuro: AAOx3, hard of hearding
   Labs / Radiology
   529 K/uL
   9.3 g/dL
   153 mg/dL
   0.8 mg/dL
   44 mEq/L
   3.9 mEq/L
   23 mg/dL
   94 mEq/L
   143 mEq/L
   28.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2173-2-15**]  03:19 AM
                             [**2173-2-15**]  03:56 AM
                             [**2173-2-15**]  09:43 AM
                             [**2173-2-15**]  10:42 AM
                             [**2173-2-16**]  03:30 AM
                             [**2173-2-16**]  03:33 AM
                             [**2173-2-16**]  03:04 PM
                             [**2173-2-17**]  04:20 AM
                             [**2173-2-17**]  04:05 PM
                             [**2173-2-18**]  04:24 AM
   WBC
   10.2
   10.2
   11.3
   12.1
   Hct
   28.3
   28.3
   28.4
   28.7
   Plt
   482
   479
   516
   529
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   0.8
   TCO2
   34
   37
   36
   39
   Glucose
   130
   118
   209
   130
   171
   153
   Other labs: PT / PTT / INR:20.5/85.9/1.9, Lactic Acid:0.7 mmol/L,
   Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   76M h/o Afib, dCHF, COPD, Obesity, DM2, and TBM by report from OSH with
   multifactorial respiratory failure.  Discussions with patient
s wife
   indicate that he will be comfort care only at this point.
   # Respiratory failure:  Likely secondary to COPD,
   obesity-hypoventilation, CHF, and pleural effusion from volume
   overload. Thoracentesis results are c/w transudative effusion.
   Successfully extubated on [**2173-2-12**].
   - BiPAP at pressures of [**1-11**] as needed throughout the day with NC in
   between
   - Lasix IV for goal I/O > -2L per day
   - PM electrolyte monitoring
   - Nebs prn
   - Pigtail drain per [**Last Name (LF) **], [**First Name3 (LF) **] D?C when output <100mL/day
   # Afib: Intermittently poorly rate controlled but stable at present.
   - Tele
   - Metoprolol, increase to 100mg QID
   - continue IV heparin gtt bridge
   - Coumadin 5mg PO Qday goal INR [**3-9**] for Atrial Fibrillation
   # DM2: RISS, follow FSBG qid.
   #Tinea cruris
   -Miconazole
   # FEN: NPO until respiratory status stabilized, replete 'lytes prn
   # PPX: heparin IV, PPI, bowel regimen
   # Access: Left PICC
   # Code: DNR/DNI, Do not escalate care
   # Dispo: ICU, pending [**Hospital1 238**]/Rehab placement
   # Communication: [**Name (NI) 113**] [**Name (NI) 3805**] (wife) [**Telephone/Fax (1) 4940**]
 ALTERATION IN NUTRITION
 .H/O FUNGAL INFECTION, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESTRICTIVE LUNG DISEASE (INCLUDING NEUROMUSCULAR, CHEST WALL)
 ATRIAL FIBRILLATION (AFIB)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-11**] 09:42 PM
   Arterial Line - [**2173-2-12**] 09:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: